US04331668
A solution of 2-methylsulphinyl-3-nitropyrrole (2 g, 0.01 mol) and 2-(5-methyl-4-imidazolylmethylthio)-ethylamine (2 g, 0.01 mol) in methanol (50 ml) was refluxed for 7 days and evaporated to dryness. The residue was chromatographed on a silica gel column eluted with ethyl acetate, and the eluate was evaporated to dryness and recrystallised from propan-2-ol to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitropyrrole (0.96 g, 31%) m.p. 161°-162°.

reactant | 2-methylsulphinyl-3-nitropyrrole | 0.01 mol, 2 g | CS(=O)C=1NC=CC1[N+](=O)[O-] | C5H6N2O3S
reactant | 2-(5-methyl-4-imidazolylmethylthio)-ethylamine | 0.01 mol, 2 g | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | methanol | 50 ml | CO | CH4O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitropyrrole | 0.96 g, 31% | CC1=C(N=CN1)CSCCNC=1NC=CC1[N+](=O)[O-] | C11H15N5O2S
